US05442064
N-[trans-4-(methoxycarbonyl)-cyclohexyl]-N-(3-phenylpropyl)-amine-hydrochloride
A solution of 2 g of methyl trans-4-aminocyclohexane-carboxylate-hydrochloride, 1.5 ml of 3-phenylpropionaldehyde and 1.3 g of sodium cyanoborohydride in 40 ml of dry methanol is stirred for 20 hours at ambient temperature. The mixture is diluted with water and extracted with ethyl acetate. The combined ethyl acetate phases are dried, acidified with ethereal hydrochloric acid and the solvent is removed under reduced pressure. The residue is triturated with acetone, suction filtered and washed with acetone and then with ether. Yield: 1.9 g (59.1% of theory), Melting point: 258°-260° C.

reactant | methyl trans-4-aminocyclohexane-carboxylate-hydrochloride | 2 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | 3-phenylpropionaldehyde | 1.5 ml | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | sodium cyanoborohydride | 1.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
product | N-[trans-4-(methoxycarbonyl)-cyclohexyl]-N-(3-phenylpropyl)-amine-hydrochloride | Cl.COC(=O)[C@@H]1CC[C@H](CC1)NCCCC1=CC=CC=C1 | InChI=1S/C17H25NO2.ClH/c1-20-17(19)15-9-11-16(12-10-15)18-13-5-8-14-6-3-2-4-7-14;/h2-4,6-7,15-16,18H,5,8-13H2,1H3;1H/t15-,16-;
